US06492355B1
(+/−)-5-(3-Amino-1-pyrrolidinyl)-2-chloro-N-(2-tricyclo[3.3.1.13,7]dec-1-ylethyl)-benzamide, hydrochloride salt
Prepared as described in example 74 above using (+/−)-2-chloro-5-[3-[[(1,1-dimethylethoxy)carbonyl]amino]-1-pyrrolidinyl]-benzoic acid (0.090 g), 1,1′-carbonyldiimidazole (0.043 g), tricyclo[3.3.1.13,7]decane-1-ethanamine, hydrochloride salt (0.057 g), N,N-diisopropylethylamine (0.046 ml) and dimethylformamide (3 ml). This compound was treated with 4N hydrochloric acid in dioxane (0.5 ml) and methanol (5 ml) to yield the title compound (0.025 g).

reactant | (+/−)-2-chloro-5-[3-[[(1,1-dimethylethoxy)carbonyl]amino]-1-pyrrolidinyl]-benzoic acid | 0.090 g | ClC1=C(C(=O)O)C=C(C=C1)N1CC(CC1)NC(=O)OC(C)(C)C | C16H21ClN2O4
reactant | 1,1′-carbonyldiimidazole | 0.043 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tricyclo[3.3.1.13,7]decane-1-ethanamine, hydrochloride salt | 0.057 g | Cl.C12(CC3CC(CC(C1)C3)C2)CCN
reactant | N,N-diisopropylethylamine | 0.046 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (+/−)-5-(3-Amino-1-pyrrolidinyl)-2-chloro-N-(2-tricyclo[3.3.1.13,7]dec-1-ylethyl)-benzamide, hydrochloride salt | 0.025 g | Cl.NC1CN(CC1)C=1C=CC(=C(C(=O)NCCC23CC4CC(CC(C2)C4)C3)C1)Cl | InChI=1S/C23H32ClN3O.ClH/c24-21-2-1-19(27-6-3-18(25)14-27)10-20(21)22(28)26-5-4-23-11-15-7-16(12-23)9-17(8-15)13-23;/h1-2,10,15-18H,3-9,11-14,25H2,(H,26,28);1H
